US09315521B2
6-methyl-2-({[2-(piperidin-1-yl)quinolin-3-yl]methyl}sulfanyl)pyrimidin-4-ol
A mixture of 2-{[(2-chloroquinolin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (0.5 g, 1.57 mmol) and piperidine (1.33 g, 15.7 mmol) in DMSO was heated overnight at 90° C. Water was then added, and the product was extracted in dichloromethane and back washed with water. The organic layer was separated, dried, and evaporated to provide the titled product as a beige solid (0.35 g, 61% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.09 (s, 3H), 2.31 (s, 3H), 4.95 (s, 2H), 6.04 (bs, 1H), 7.87 (t, J=7.8, 15.0 Hz, 1H), 8.08 9m, 2H), 8.26 (d, J=8.1 Hz, 1H), 8.48 (d, J=8.2 Hz, 1H), 9.00 (d, J=8.2 Hz, 1H); M+366.5.

reactant | 2-{[(2-chloroquinolin-3-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 1.57 mmol, 0.5 g | ClC1=NC2=CC=CC=C2C=C1CSC1=NC(=CC(=N1)O)C | C15H12ClN3OS
reactant | piperidine | 15.7 mmol, 1.33 g | N1CCCCC1 | C5H11N
reactant | Water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 6-methyl-2-({[2-(piperidin-1-yl)quinolin-3-yl]methyl}sulfanyl)pyrimidin-4-ol | 0.35 g, 61% yield | CC1=CC(=NC(=N1)SCC=1C(=NC2=CC=CC=C2C1)N1CCCCC1)O | C20H22N4OS
